US08877742B2
1-(6-bromoindolin-1-yl)-2,2,2-trifluoroethanone
A mixture of 6-bromoindoline (1.00 g, 5.05 mmol), 2,2,2-trifluoroacetic anhydride (0.843 mL, 6.06 mmol) and triethylamine (1.056 mL, 7.57 mmol) in DCM (25 mL) was stirred at RT for 3 hours. The mixture was partitioned between water (50 mL) and DCM (100 mL). The aqueous phase was separated and extracted with additional DCM (50 mL). The organic extracts were combined, washed with brine (25 mL), dried with anhydrous magnesium sulfate, filtered and evaporated to dryness. The residues were purified on silica eluting with cyclohexane and ethyl acetate (0-100%). The appropriate fractions were combined and evaporated to dryness producing title compound (1.40 g). LCMS (A): m/z (M+H)+ 294/296, C10H7BrF3NO requires 293/295 (acidic).

reactant | 6-bromoindoline | 5.05 mmol, 1.00 g | BrC1=CC=C2CCNC2=C1 | C8H8BrN
reactant | 2,2,2-trifluoroacetic anhydride | 6.06 mmol, 0.843 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | triethylamine | 7.57 mmol, 1.056 mL | C(C)N(CC)CC | C6H15N
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
product | 1-(6-bromoindolin-1-yl)-2,2,2-trifluoroethanone | 1.40 g | BrC1=CC=C2CCN(C2=C1)C(C(F)(F)F)=O | C10H7BrF3NO
